US07238714B2
Step 1. Methyl 5-chloro-2-(3-fluorophenoxy)benzoate
The title compound was prepared according to the procedure described in step 1 of Example 67 from methyl 5-chloro-2-fluorobenzoate and 3-fluorophenol: 1H-NMR (CDCl3) δ 7.91 (1H, d, J=2.8 Hz), 7.46 (1H, dd, J=8.7, 2.8 Hz), 7.31–7.06 (1H, m), 6.99 (1H, d, J=8.7 Hz), 6.83–6.61 (3H, m), 3.81 (3H, s).

reactant | methyl 5-chloro-2-fluorobenzoate | ClC=1C=CC(=C(C(=O)OC)C1)F | C8H6ClFO2
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
product | Methyl 5-chloro-2-(3-fluorophenoxy)benzoate | ClC=1C=CC(=C(C(=O)OC)C1)OC1=CC(=CC=C1)F | C14H10ClFO3
